.SUBCKT LM318S8    3 2 7 4 6
X_LM318S8 3 2 7 4 6 LM318
** nested subcircuit: LM318
.SUBCKT LM318      3 2 7 4 6
* INPUT
RC1 7 80 7.074E+02
RC2 7 90 7.074E+02
Q1 80 2 10 QM1 
Q2 90 3 11 QM1
*
C1 80 91 300E-12
RXC1 91 90 1E3
CXC1 91 90 15E-12
C2 1 8 5.000E-12
*
RB1 2 102 1.0000E+00
RB2 3 103 1.0000E+00
DDM1 102 104 DM2 
VZ1 104 103 5.5 
DDM2 103 105 DM2 
VZ2 105 102 5.5 
RE1 10 12 6.209E+02
RE2 11 12 6.209E+02
IEE 12 4 6.000E-04
RE 12 0 3.332E+05
CE 12 0 2.632E-13
*
GCM 0 8 12 0 1.414E-08
GA 8 0 80 90 1.414E-03
R2 8 0 1.000E+05
GB 1 0 8 0 5.318E+01
RO2 1 0 7.4000E+01
*
RS 1 6 1
ECL 18 0 1 6 3.172E+01
GCL 0 8 20 0 1
RCL 20 0 1E3
D1 18 20 DM1
D2 20 18 DM1
*
D3A 131 70 DM3
D3B 13 131 DM3
GPL 0 8 70 7 1
VC 13 6 3.6473
RPLA 7 70 1E4
RPLB 7 131 1E5
D4A 60 141 DM3
D4B 141 14 DM3
GNL 0 8 60 4 1
VE 6 14 3.6473
RNLA 60 4 1E4
RNLB 141 4 1E5
*
IP 7 4 4.400E-03
DSUB 4 7 DM2 
* MODELS 
.MODEL QM1 NPN (IS=8.000E-16 BF=1.818E+03)
.MODEL QM2 NPN (IS=9.347E-16 BF=2.222E+03)
*
.MODEL DM1 D (IS=1.000E-19)
.MODEL DM2 D (IS=8.000E-16)
.MODEL DM3 D (IS=1.000E-20)
.ENDS LM318
** end nested subcircuit: LM318
.ENDS LM318S8
